US07595405B2
3-Amino-5-(5-chloro-pyridin-2-yl)-benzoic acid methyl ester (1.5 g, 5.71 mmol, from Preparation 2) and Et3N (2.39 mL, 17.13 mmol) were dissolved in 30 mL methylene chloride, and isobutyryl chloride (72 mL, 6.85 mmol) was added. The reaction mixture was stirred at room temperature for two hours, and then was partitioned between water and methylene chloride. The combined organic layers were dried (MgSO4), filtered and concentrated under reduced pressure to give 1.29 g of 3-(5-chloro-pyridin-2-yl)-5-isobutyrylamino-benzoic acid methyl ester, MS (M+H)=333.

reactant | 3-Amino-5-(5-chloro-pyridin-2-yl)-benzoic acid methyl ester | 5.71 mmol, 1.5 g | COC(C1=CC(=CC(=C1)C1=NC=C(C=C1)Cl)N)=O | C13H11ClN2O2
reactant | Et3N | 17.13 mmol, 2.39 mL | CCN(CC)CC | C6H15N
reactant | isobutyryl chloride | 6.85 mmol, 72 mL | C(C(C)C)(=O)Cl | C4H7ClO
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-chloro-pyridin-2-yl)-5-isobutyrylamino-benzoic acid methyl ester | 1.29 g | COC(C1=CC(=CC(=C1)NC(C(C)C)=O)C1=NC=C(C=C1)Cl)=O | C17H17ClN2O3
